*TB_SUN_TR_SKY130NM/TB_NCM 

*---------------------------------------------------------------- 
* Include 
*---------------------------------------------------------------- 

#ifdef Lay 

.include ../../../work/lpe/TB_FET_lpe.spi 

#else 

.include ../../../work/xsch/TB_FET.spice 

#endif 

  

*----------------------------------------------------------------- 
* OPTIONS 
*----------------------------------------------------------------- 

.option TNOM=27 GMIN=1e-15 reltol=1e-3 

  

*----------------------------------------------------------------- 
* PARAMETERS 
*----------------------------------------------------------------- 

.param TRF = 10p 

  

*----------------------------------------------------------------- 

* FORCE 

*----------------------------------------------------------------- 

VSS  VSS  0     dc 0 

VDD  VDD  VSS dc 0.3 

VG  VG VSS dc 0 

  

*----------------------------------------------------------------- 

* DUT 

*----------------------------------------------------------------- 

.include ../xdut.spi 

  

*---------------------------------------------------------------- 

* PROBE 

*---------------------------------------------------------------- 

.save all 

  

  

*---------------------------------------------------------------- 

* NGSPICE control 

*---------------------------------------------------------------- 

.control 

set num_threads=8 

set color0=white 

set color1=black 

unset askquit 

  

dc VG 0 0.3 1m 

  

write 

quit 

  

  

.endc 

  

.end 
